US07015218B1
By the reaction and treatment in the same manner as in Starting Material Synthesis Example 1 using benzylhydrazine dihydrochloride (8.0 g) and ethyl 2-ethoxymethyleneacetoacetate (7.6 g), the residue was recrystallized from ethyl acetate to give 1-benzyl-3-methylpyrazole-4-carboxylic acid (2.45 g).

reactant | benzylhydrazine dihydrochloride | 8.0 g | Cl.Cl.C(C1=CC=CC=C1)NN
reactant | ethyl 2-ethoxymethyleneacetoacetate | 7.6 g | C(C)OC=C(C(=O)OCC)C(=O)C | C9H14O4
product | 1-benzyl-3-methylpyrazole-4-carboxylic acid | 2.45 g | C(C1=CC=CC=C1)N1N=C(C(=C1)C(=O)O)C | C12H12N2O2
